2127-01-15 07:46:00 Physician Resident Progress Note
Chief Complaint: Chief Complaint: planned urologic procedure
   Reason for MICU admission: post op hypotension and concern for septic
   shock
   24 Hour Events:
 MULTI LUMEN - START [**2127-1-14**] 05:30 PM
 ARTERIAL LINE - START [**2127-1-14**] 10:28 PM
 EKG - At [**2127-1-14**] 11:05 PM
 FEVER - 101.6
F - [**2127-1-14**] 07:00 PM
   -Transfused 2 units for low crit that may have been somewhat spuriously
   low
   -Weaned pressors to just norepi this morning
   -Received an additional 6L of NS on floor in addition to 6L LR in the
   OR/PACU
   History obtained from Patient
   Allergies:
   History obtained from PatientErythromycin (Oral) (Erythromycin Base)
   Unknown;
   Penicillins
   Unknown;
   Latex
   Unknown;
   Ciprofloxacin
   localized rash
   Last dose of Antibiotics:
   Vancomycin - [**2127-1-14**] 06:58 PM
   Gentamicin - [**2127-1-15**] 01:31 AM
   Meropenem - [**2127-1-15**] 02:09 AM
   Infusions:
   Norepinephrine - 0.05 mcg/Kg/min
   Other ICU medications:
   Lorazepam (Ativan) - [**2127-1-15**] 12:58 AM
   Hydromorphone (Dilaudid) - [**2127-1-15**] 05:01 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2127-1-15**] 07:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**28**] AM
   Tmax: 38.7
C (101.6
   Tcurrent: 36.9
C (98.5
   HR: 114 (103 - 137) bpm
   BP: 110/57(71) {102/52(11) - 133/66(86)} mmHg
   RR: 26 (19 - 28) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
    Mixed Venous O2% Sat: 88 - 97
   Total In:
                                                                  5,665 mL
                                                                  1,127 mL
   PO:
   TF:
   IVF:
                                                                  5,485 mL
                                                                    427 mL
   Blood products:
                                                                    700 mL
   Total out:
                                                                  1,225 mL
                                                                  1,177 mL
   Urine:
                                                                  1,225 mL
                                                                  1,177 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,440 mL
                                                                    -50 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///21/
   Physical Examination
   General: Alert though appears fatigued, oriented, no acute distress.
   Chronically ill appearing and with UE contractures.
   HEENT: Sclera anicteric, MM slightly dry, oropharynx clear.
   Neck: supple, JVD to [**1-1**] ASA, no adenopathy.
   Lungs: Diminished bilaterally with few R posterior crackles.  No
   wheezes.
   CV: Tachy, regular, normal S1 + S2, no murmurs, rubs, gallops
   appreciated.
   Abdomen:  PEG tube in place.  Slightly firm abdomen, reports being
   non-tender but appears uncomfortable to palpation, non-distended, bowel
   sounds present though hypoactive, no rebound tenderness or guarding, no
   organomegaly.
   Back: bilateral nephrostomy tubes in place.  Midline thoracic vertebral
   stage 3 decub, no surrounding erythema.  Likely stage 4 decub over
   sacrum.  Smaller decub over scapula.
   Ext: Pedal edema.No clubbing, cyanosis.  2+ DP pulses.  Slightly cool
   extremities on pressors.  Has no movement of UEs or LEs, reports intact
   sensation.
   Labs / Radiology
   272 K/uL
   12.4 g/dL
   101 mg/dL
   0.4 mg/dL
   21 mEq/L
   3.2 mEq/L
   19 mg/dL
   110 mEq/L
   143 mEq/L
   37.0 %
   36.5 K/uL
        [image002.jpg]
                             [**2127-1-14**]  04:23 PM
                             [**2127-1-14**]  10:03 PM
                             [**2127-1-15**]  04:56 AM
   WBC
   13.2
   28.4
   36.5
   Hct
   38.3
   24.3
   37.0
   Plt
   335
   284
   272
   Cr
   0.4
   0.4
   TropT
   0.53
   0.49
   Glucose
   118
   101
   Other labs: PT / PTT / INR:15.7/36.9/1.4, CK / CKMB /
   Troponin-T:1014/22/0.49, ALT / AST:13/35, Alk Phos / T Bili:71/0.4,
   Differential-Neuts:87.0 %, Band:7.0 %, Lymph:0.0 %, Mono:3.0 %, Eos:0.0
   %, Lactic Acid:1.8 mmol/L, LDH:324 IU/L, Ca++:7.4 mg/dL, Mg++:1.3
   mg/dL, PO4:2.3 mg/dL
   Imaging: CXR AP [**2127-1-14**]:
   FINDINGS: AP single view of the chest has been obtained with patient in
   sitting semi-upright position. Available for comparison is a preceding
   similar study dated [**2126-8-1**]. There is no evidence of
   significant
   cardiac enlargement on this portable chest view. The pulmonary
   vasculature is not congested. Thin plate atelectasis exists bilaterally
   on the bases,
   however, no evidence of acute infiltrates is present and the pulmonary
   vasculature is not congested. No pneumothorax is identified in the
   apical
   area. In the upper abdominal area, bilateral pigtail catheters are
   overlying
   the renal areas indicating bilateral pelvic nephrostomy. These tubes
   were
   present earlier on examination of [**2126-8-1**].
   IMPRESSION: No evidence of new pneumothorax status post subclavian line
   placement.
   [**2127-1-1**] Change nephrostomy/pylostomy tube - IMPRESSION:
   1. Bilateral occluded nephrostomy tubes.
   2. Using multiple wires, the occlusions were broken through and access
   gained into both kidneys.
   3. Left 8 French nephrostomy tube exchange.
   4. Right upsized from 8 French to 10 French nephrostomy tube.
   5. Bilateral nephrostograms demonstrating bilateral pelvic and ureteral
   stones as previously seen. Contrast does flow to the urinary bladder
   easily on the left side; however, is held up in the distal ureter on
   the right side.
   .
   EKG: sinus tach at 105.  LAD.  normal intervals.  lower voltage
   compared to priors in limb and precordial leads.  No ST segment
   changes.
   Microbiology: [**2127-1-14**]  BLOOD CULTURE Blood Culture, Routine-PENDING
   INPATIENT
   [**2127-1-14**]  URINE URINE CULTURE-PENDING INPATIENT
   [**2127-1-14**]  URINE URINE CULTURE-PENDING INPATIENT
   [**2127-1-14**]  URINE URINE CULTURE-PENDING INPATIENT
   [**2127-1-14**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   [**2127-1-14**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   Assessment and Plan
 IMPAIRED SKIN INTEGRITY
 ANXIETY
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
 CHRONIC PAIN
 SEPSIS WITHOUT ORGAN DYSFUNCTION
   61F with MS, history of urosepsis, bilateral nephrolithiasis, and
   bilateral percutaneous nephrostomy tubes who presents with hypotension
   following a right-sided ureteroscopy and lithotripsy.
   # Hypotension/septic shock.  Septic shock most likely cause of
   hypotension given previous history of severe infections, intraop
   manipulation, fever, leukocytosis/bandemia.  Suspect UTI leading to
   bacteremic event.  Less likely infectious possibilities include
   wounds/decubs but these appear clean, pneumonia, GI/C.diff.  Cultures
   checked but all after gent and zosyn.  Less likely cardiac
   ischemia/cardiogenic shock (though elevated enzymes more likely demand;
   no ECG changes), bleed (but low suspicion), pericardial
   effusion/tamponade (lower volts on ECG, though no reason for
   effusion/tamponade to be present), obstructive/PE (again less likely),
   adrenal insufficiency (anesthesia concern given use of etomidate but
   random [**Last Name (un) **] in 30s).  Overwhelmingly seems to be sepsis in etiology.
   - Antibiotics: meropenem (given PCN allergy) and gent for double
   coverage given strong possibility of pseudomonas, also vanc (no history
   of VRE known) for h/o MRSA.
   - f/u bloods and send urines from various sites.
   - f/u urology recs re: any other imaging for abscess etc.
   - Check C.diff
   - Monitor decubs - no active infection evident currently.
   - Check TTE
   - PM Hct to r/o bleed
   - Trend lactates, CEs
   - Pressors: now on norepinephrine
   - consider PICC when afebrile
   - Add on am [**Last Name (un) **], if low, would [**First Name8 (NamePattern2) **] [**Last Name (un) **] stim
   # Leaking from G tube
   - G- tube to gravity
   - consider surgery
   - may need further imaging
   LEUKOCYTOSIS
   No evidence of new infection.
   - f/u cultures
   - check stool for cdiff
   ELEVATED INR: Unclear etiology. Consider DIC. Went from 1.1-1.4
   - check DIC labs
   # Nephrolithiasis s/p perc neph tubes.  ALso neurogenic bladder with
   foley.
   - f/u urology recs.
   - change indwelling foley given infection.
   # NSTEMI.  Likely demand in setting of hypotension.  No ischemic ECG
   changes. Troponin peaked at 0.53. Now trending down.
   - Continue to trend.
   - f/u TTE
   - No further intervention for now, start low dose statin
   - start aspirin after acute illness
   # MS.  Painful UEs and now bedbound
   - IV pain meds for now given poor GI absorption
   - when taking POs, continue home pain, anxiety regimen.
   # Sacral decubs.
   - wound care consult.
   # Depression - home meds. Feels depressed, pt has flat affect, pt
   having difficulty coping with being debilitated.
   - SW consult
   ICU Care
   Nutrition: tube feeds and PO
   Glycemic Control:
   Lines:
   20 Gauge - [**2127-1-14**] 03:34 PM
   Multi Lumen - [**2127-1-14**] 05:30 PM, femoral
   Prophylaxis:
   DVT: Subutaneous heparin [**Hospital1 **] (unclear why on [**Hospital1 **] per urology)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Patient, Father  Comments:
   [**Name2 (NI) 129**] status: full
   Disposition: ICU
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   I saw and examined the patient and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   resident note, including the assessment and plan. I would emphasize and
   add the following points:  61F MS, neurogenic bladder with indwelling
   foley, prior episodes of urosepsis, bl nephrolithiasis w/ bl perc
   nephrostomy tubes presents with hypotension / septic shock after
   planned R ureteroscopy and lithotripsy.   R fem CVL placed. Received
   aggressive IVFs / 2unit prbc. Radial a-line placed (BP 30 points
   higher).  Weaning off levophed.
   .
   101.6 TM  110/50  114   26  96% 2L vbg 7.35/43/66
   Alert, nad, severe contractures of UEs
   Diminshed BS, bb rales
   tachy RR, no M
   + bs, soft, NT, leaking around g-tube site
   2+ pedal edema
   multiple decubiti over spine/sacrum
   Labs: WBC 36, 7B, HCT 37, K+ 43.2, Cr 0.4, lactate 1.8, INR 1.4, trop
   0.49 (0.53)  fem vbg 7.38/43/158
   CXR blunting of l cotophrenic angle  no focal inf
   Septic shock post GU manipulation, improving after aggressive
   resuscitation.  Agree with plan to continue broad empiric antbx
   (gent/[**Last Name (un) **] and vanco) noting prior cx data, tailoring per cx results,
   weaning levophed--Pt with low baseline BP so will tolerate MAPS of 60
   follwoing mentation and UOP as well. Her bandemia is trending down but
   now with profound leukocytosis.  Will send stool for c diff (? recent
   antibx) and follow pending cxs. CEs have peaked, likely demand ischemia
   in setting of hypotension and tachycardia, without sx or ecg
   changes. Will check TTE, start statin and consider adding asa. Hct drop
   overnight, likely dilutional, now s/p 2 units prbc and higher than
   baseline, will monitor. INR also mildly elevated, ? sepsis related,
   will follow and send DIC labs, plts remain stable. For MS we continue
   home meds, bowel reg, will consult wound care for decubiti.  In terms
   of g-tube will cs gen [**Doctor First Name **] for possible tube change. Pending g tube
   eval, can advance to home diet.  SW consult/ depression eval.  ICU:
   Fem line (cont for now until off pressors/af, then obtain picc), PIVs,
   A-line, sq hep, full code.
   Remainder of plan as outlined in resident note.
   Patient is critically ill
   Total time: 60 min
   ------ Protected Section Addendum Entered By:[**Name (NI) 209**] [**Last Name (NamePattern1) 210**], MD
   on:[**2127-1-15**] 05:50 PM ------

2127-01-17 07:03:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - In the AM: Pressors were weaned off in the AM.  Patients BP/MAP
   dropped.  She received 1.5L of NS with some response.  However, she was
   restarted on levo as she was anasarcic and sats dropped from 98% to 91%
   w/ fluids.  She was started on midodrine 5mg tid, to be uptitrated as
   tolerated.
   - KUB final read: no contrast material within the stomach identified.
   - [**Doctor First Name 3**] does not think there is a leak, are monitoring overnight
   - Wound consult left recs
   - Urine cx grew: PSEUDOMONAS AERUGINOSA I-cefepime/ceftaz/gent; R
   cipro/zosyn; and S to meropenem/tobramycin
   - Discontinued gent given sensitivities above; continued meropenem
   - As patient continued to require pressors, got a CT abdomen/pelvis to
   r/o abcess/infxn (which was a somewhat limited study as iv contrast
   given through central line):
   1. Definite intra-abdominal fluid collection; small amount of ascites.
   2. Bl pleural effus with lung collapse and pneumonia bl
   3. Multiple renal & ureteral stones
   4. Anasarca
   5. Subcutaneous gas R forearm ? [**12-31**] IV placement vs infx
   6. Hypodense liver lesions
   7. Skin erosion at sacrum w/ exposure of sacrum & coccyx concerning for
   severe decubitus ulcer and underlying osteomyelitis
   - Couldn't place peripheral ivs, nurse tried and iv nurse tried, kept
   the femoral central line
   - In the AM: discontinued vanc; But restarted Vanc after CT results due
   to concern for HAP and/or osteo. Checked ESR and CRP w/ AM labs.
   Allergies:
   Erythromycin (Oral) (Erythromycin Base)
   Unknown;
   Penicillins
   Unknown;
   Latex
   Unknown;
   Ciprofloxacin
   localized rash
   Last dose of Antibiotics:
   Gentamicin - [**2127-1-16**] 09:49 AM
   Vancomycin - [**2127-1-17**] 12:30 AM
   Meropenem - [**2127-1-17**] 02:00 AM
   Infusions:
   Norepinephrine - 0.03 mcg/Kg/min
   Other ICU medications:
   Hydromorphone (Dilaudid) - [**2127-1-16**] 10:43 AM
   Heparin Sodium (Prophylaxis) - [**2127-1-16**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2127-1-17**] 07:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**28**] AM
   Tmax: 36.7
C (98
   Tcurrent: 36.1
C (97
   HR: 111 (82 - 111) bpm
   BP: 105/61(78) {71/42(51) - 119/71(89)} mmHg
   RR: 16 (7 - 18) insp/min
   SpO2: 94%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  4,827 mL
                                                                    674 mL
   PO:
                                                                    720 mL
             TF:
                                                                    131 mL
                                                                    239 mL
   IVF:
                                                                  3,721 mL
                                                                    390 mL
   Blood products:
   Total out:
                                                                  3,358 mL
                                                                    680 mL
   Urine:
                                                                  2,708 mL
                                                                    680 mL
   NG:
                                                                    650 mL
   Stool:
   Drains:
   Balance:
                                                                  1,469 mL
                                                                     -6 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: ///20/
   Physical Examination
   Pt contractured w/ flat affect; Reduced BS at bases; +2 pitting edema
   in all four extremities
   Labs / Radiology
   227 K/uL
   11.3 g/dL
   77 mg/dL
   0.3 mg/dL
   20 mEq/L
   3.8 mEq/L
   9 mg/dL
   110 mEq/L
   137 mEq/L
   33.7 %
   19.6 K/uL
        [image002.jpg]
                             [**2127-1-14**]  04:23 PM
                             [**2127-1-14**]  10:03 PM
                             [**2127-1-15**]  04:56 AM
                             [**2127-1-15**]  02:21 PM
                             [**2127-1-15**]  09:29 PM
                             [**2127-1-15**]  09:31 PM
                             [**2127-1-16**]  05:20 AM
                             [**2127-1-17**]  03:37 AM
   WBC
   13.2
   28.4
   36.5
   26.7
   27.7
   19.6
   Hct
   38.3
   24.3
   37.0
   29.4
   32.1
   32.8
   33.7
   Plt
   335
   284
   272
   [**Telephone/Fax (3) 11063**]
   Cr
   0.4
   0.4
   0.4
   0.4
   0.3
   TropT
   0.53
   0.49
   0.38
   Glucose
   118
   101
   138
   108
   77
   Other labs: PT / PTT / INR:14.0/35.0/1.2, CK / CKMB /
   Troponin-T:607/12/0.38, ALT / AST:13/35, Alk Phos / T Bili:71/1.3,
   Differential-Neuts:94.0 %, Band:7.0 %, Lymph:3.5 %, Mono:1.7 %, Eos:0.6
   %, D-dimer:[**Numeric Identifier 11032**] ng/mL, Lactic Acid:1.4 mmol/L, LDH:280 IU/L, Ca++:7.7
   mg/dL, Mg++:1.9 mg/dL, PO4:2.2 mg/dL
   Imaging: 1. Limited study as delayed images were not obtained and also
   secondary to hand injection due to lack of peripheral access.
   2. Definite intra-abdominal fluid collection. There is a small amount
   of
   intra-abdominal ascites.
   3. Bilateral pleural effusions with adjacent lung collapse and
   pneumonia bilaterally.
   4. Multiple renal and ureteral stones which appears more fragmented
   than prior study. Status post nephrostomy tube placement. Multiple
   hyperdense
   material in the urinary bladder, likely stones, decreased since prior
   exam.
   Trace pericardial effusion, extensive subcutaneous edema and small
   amount of intra-abdominal ascites most compatible with anasarca.
   5. Subcutaneous gas in the right forearm subcutaneous tissues may be
   secondary to IV line placement. Clinical correlation for infectious
   etiology is recommended.
   6. Two hypodense liver lesions, stable since [**2126-1-27**]. As recommended
   previously an MRI may be helpful in further evaluation of the
   heterogeneous lesion in the right lobe. Multiple other liver lesions
   seen on [**2-8**] study are not well appreciated on the current study,
   likely due to timing of contrast.
   7. Skin erosion at the sacral region and apparent exposure of sacrum
   and
   coccyx to open air is concerning for severe decubitus ulcer and
   underlying
   osteomyelitis. Clinical correlation is recommended.
   Microbiology: Urine:
   PSEUDOMONAS AERUGINOSA.    10,000-100,000 ORGANISMS/ML..
   GRAM NEGATIVE ROD #2.    [**2116**]/ML.
                                 SENSITIVITIES: MIC expressed in MCG/ML
   _________________________________________________________
                                PSEUDOMONAS AERUGINOSA
                                |
   CEFEPIME--------------    16 I
   CEFTAZIDIME-----------    16 I
   CIPROFLOXACIN---------   =>4 R
   GENTAMICIN------------     8 I
   MEROPENEM-------------     4 S
   PIPERACILLIN/TAZO----- =>128 R
   TOBRAMYCIN------------   <=1 S
   Assessment and Plan
 URINARY TRACT INFECTION (UTI)
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 NEPHROLITHIASIS (KIDNEY STONES)
 MYOCARDIAL INFARCTION, ACUTE (AMI, STEMI, NSTEMI)
 IMPAIRED SKIN INTEGRITY
 ANXIETY
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
 CHRONIC PAIN
 SEPSIS WITHOUT ORGAN DYSFUNCTION
   61F with MS, history of urosepsis, bilateral nephrolithiasis, and
   bilateral percutaneous nephrostomy tubes who presents with hypotension
   following a right-sided ureteroscopy and lithotripsy.
   # Septic shock.  Secondary to urosepsis after operative manipulation.
   Urine cultures growing pseudomonas.  Blood cx remain pending. Patient
   restarted on pressors yesterday, no off since AM.  Arterial line likely
   not accurate reads given her contractures; will monitor Urine output
   and mentation for signs of end organ perfusion.
   - Continue: meropenem for at least 2 week course
   - Vanc restarted, but can be d/c
d given urine cx
   - Started midodrine 5mg tid, can uptitrate as tolerated
   - f/u blood cx.
   - f/u urology recs
   - Check C.diff
   - Place PICC; d/c fem line
   # Bl Pleural effusions: Secondary to volume overload w/ lung collapse.
   Pt too contractured for chest PT. Currently sating well on 1L nc.
   - D/c Vanc, not likely infectious
   - Incentive spirometry if tolerated
   - Hold lasix given presentation of shock
   - Hold further ivfs, given she is net in ~7L for length of stay
   # Question of Osteomyelitis: Unlikely given downtrending WBC.  Continue
   to monitor wounds.  Will check to see if probes to bone.
   # RUE Edema: Pt anasarcic, but RUE more edematous.
   - US of RUE
   # Constipation:
   - Cont home regimen: senna, colace, bisacodyl, sorbitol
   - Consider enema if not stooling
   # Leaking from G tube: No contrast seen in repeat XRay.  Not leaking
   internally.  Nolonger leaking through dressing changes.
   # Elevated INR: DIC labs normal, except D-dimer elevated. Platelets
   stable.
   - Monitor INR and platelets
   # Nephrolithiasis s/p perc neph tubes:  ALso neurogenic bladder with
   foley.  Foley has been changed.
   - f/u urology recs.
   # NSTEMI:  Demand, with down trending trop and no ischemic ECG changes.
   No wall motion abnormalities on echo.
   - Cont statin
   - start aspirin after acute illness
   # MS.  Painful UEs and now bedbound
   - Cont home dilaudid and anxiety regimen
   # Sacral decubs.
   - Cont wound care
   # Depression
   - Cont home antidepressant and anxiety regimen
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2127-1-16**] 10:00 PM 40 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2127-1-14**] 05:30 PM
   Arterial Line - [**2127-1-14**] 10:28 PM
   Prophylaxis:
   DVT: HSC
   Stress ulcer: ppi
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU for now
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   I saw and examined the patient and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   resident note, including the assessment and plan. I would emphasize and
   add the following points:  61F MS, neurogenic bladder with indwelling
   foley, prior episodes of urosepsis, bl nephrolithiasis w/ bl perc
   nephrostomy tubes p/w hypotension / septic shock after planned R
   ureteroscopy and lithotripsy, now with PSA in urine. Bolused 1.5L,
   Midodrine started. Levophed restarted overnight for hypot and low UOP,
   now off. CT torso without evidence of abscess, b/l effusions.
   AF  TM 100/60  90  10  94% 1L
   Alert and comfortable, severe contractures of UEs, edematous
   Diminshed BS, bb rales
   RR, no M
   + bs, soft, NT
   2+ pedal edema
   multiple decubiti over spine/sacrum
   Labs: WBC 20, HCT 34, K+ 3.8, Cr 0.3, INR 1.2, esr 53
   IMP: Septic shock post GU manipulation, now with PSA in urine.
   Clinically improving.
   Will continue [**Last Name (un) **] for PSA UTI.  Her leukocytosis is trending down, but
   remains quite elevated.  There was no abscess on CT and this is all
   most likely from her urinary infection. We await  BM for stool c diff.
   She is now off levophed.  Her a-line is very positional, likely
   contributing to intermittent hypot as well as probable autonomic
   dysregulation from MS.  [**Name13 (STitle) **] con't midodrine, following UOP
   and mentation as parameters as her BP/MAPS run low.  In terms of recent
   demand ischemia, her TTE was unremarkable and we continue statin. Her
   hct remains stable, w/o evidence of active bleeding. INR and Ptt  have
   normalized--? sepsis related or nutritional. For MS we continue home
   meds, bowel reg, wound care c/s for decubiti.   We continue paxil for
   depression.   TFs and asp diet. In terms of access, will request Picc
   and then d/c fem line.  I am concerned that her RUE appears swollen .
   L, will obtain doppler. D/c aline if remains off pressors, sq hep, full
   code.
   Remainder of plan as outlined in resident note.
   Will continue in ICU for now, Critically ill. Total time: 60 min
   ------ Protected Section Addendum Entered By:[**Name (NI) 209**] [**Last Name (NamePattern1) 210**], MD
   on:[**2127-1-17**] 04:50 PM ------

2127-01-18 07:19:00 Physician Resident Progress Note
Chief Complaint: sepsis [**12-31**] UTI
   24 Hour Events:
 ULTRASOUND - At [**2127-1-17**] 06:39 PM
   - RUE edema concern for DVT - RUE U/S negative for DVT so clear for
   PICC tomorrow
   - Remained off pressors since 8am, increased midodrine to 5mg TID to
   compensate
   - Increased meropenem dose given high MIC to 1gm IV Q8H
   - DC'd vanc given no clear e/o HAP or osteo
   - No new urology recs
   History obtained from [**Hospital 31**] Medical records
   Allergies:
   History obtained from [**Hospital 31**] Medical recordsErythromycin (Oral)
   (Erythromycin Base)
   Unknown;
   Penicillins
   Unknown;
   Latex
   Unknown;
   Ciprofloxacin
   localized rash
   Last dose of Antibiotics:
   Meropenem - [**2127-1-18**] 02:05 AM
   Stopped:
   Gentamicin - [**2127-1-16**] 09:49 AM
   Vancomycin - [**2127-1-17**] 09:05 AM
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2127-1-17**] 08:43 AM
   Hydromorphone (Dilaudid) - [**2127-1-17**] 04:05 PM
   Heparin Sodium (Prophylaxis) - [**2127-1-17**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Nutritional Support: Tube feeds
   Genitourinary: Foley
   Flowsheet Data as of  [**2127-1-18**] 07:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**28**] AM
   Tmax: 36.6
C (97.9
   Tcurrent: 36.2
C (97.1
   HR: 92 (88 - 106) bpm
   BP: 137/79(90) {137/79(90) - 137/79(90)} mmHg
   RR: 13 (9 - 20) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  2,445 mL
                                                                    717 mL
   PO:
             TF:
                                                                    920 mL
                                                                    499 mL
   IVF:
                                                                  1,065 mL
                                                                    173 mL
   Blood products:
   Total out:
                                                                  3,471 mL
                                                                  1,025 mL
   Urine:
                                                                  3,451 mL
                                                                  1,010 mL
   NG:
                                                                     20 mL
                                                                     15 mL
   Stool:
   Drains:
   Balance:
                                                                 -1,026 mL
                                                                   -308 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 99%
   ABG: ///24/
   Physical Examination
   General: Alert though appears fatigued, oriented, no acute distress.
   Chronically ill appearing and with UE contractures.
   Lungs: Diminished bilaterally.  No wheezes.
   CV: Tachy, regular, normal S1 + S2, no murmurs, rubs, gallops
   appreciated.
   Abdomen:  PEG tube in place now leakage.  Slightly firm abdomen,
   reports being non-tender but appears uncomfortable to palpation,
   non-distended, bowel sounds present though hypoactive, no rebound
   tenderness or guarding, no organomegaly.
   Back: bilateral nephrostomy tubes in place.
   Ext: [**1-1**]+ pedal edema. No clubbing, cyanosis. Has no movement of UEs or
   Les.
   Labs / Radiology
   222 K/uL
   11.2 g/dL
   125 mg/dL
   0.3 mg/dL
   24 mEq/L
   4.0 mEq/L
   10 mg/dL
   108 mEq/L
   138 mEq/L
   34.9 %
   13.8 K/uL
        [image002.jpg]
                             [**2127-1-14**]  04:23 PM
                             [**2127-1-14**]  10:03 PM
                             [**2127-1-15**]  04:56 AM
                             [**2127-1-15**]  02:21 PM
                             [**2127-1-15**]  09:29 PM
                             [**2127-1-15**]  09:31 PM
                             [**2127-1-16**]  05:20 AM
                             [**2127-1-17**]  03:37 AM
                             [**2127-1-18**]  04:12 AM
   WBC
   13.2
   28.4
   36.5
   26.7
   27.7
   19.6
   13.8
   Hct
   38.3
   24.3
   37.0
   29.4
   32.1
   32.8
   33.7
   34.9
   Plt
   335
   284
   272
   [**Telephone/Fax (3) 11063**]
   222
   Cr
   0.4
   0.4
   0.4
   0.4
   0.3
   0.3
   TropT
   0.53
   0.49
   0.38
   Glucose
   118
   101
   138
   108
   77
   125
   Other labs:
   PT / PTT / INR:12.0/29.0/1.0
   Differential-Neuts:91.5 %, Band:7.0 %, Lymph:5.1 %, Mono:1.9 %, Eos:1.2
   %,
   Ca++:8.0 mg/dL, Mg++:1.8 mg/dL, PO4:1.6 mg/dL
   WBC trending down, still with left shift
   Microbiology:
   No new micro
   Assessment and Plan
   61F with MS, history of urosepsis, bilateral nephrolithiasis, and
   bilateral percutaneous nephrostomy tubes who presents with hypotension
   following a right-sided ureteroscopy and lithotripsy.
   # Septic shock.  Secondary to urosepsis after operative manipulation.
   Urine cultures growing pseudomonas.  Blood cx remain pending. Patient
   restarted on pressors yesterday, no off since AM.  Arterial line likely
   not accurate reads given her contractures; will monitor Urine output
   and mentation for signs of end organ perfusion.
   - Continue: meropenem for at least 2 week course
   - Started midodrine 5mg tid, can uptitrate as tolerated
   - f/u blood cx.
   - f/u urology recs
   - Check C.diff
   - Place PICC; d/c fem line
   # Bl Pleural effusions: Secondary to volume overload w/ lung collapse.
   Pt too contractured for chest PT. Currently sating well on 1L nc.
   - D/c Vanc, not likely infectious
   - Incentive spirometry if tolerated
   - Hold lasix given presentation of shock
   - Hold further ivfs, given she is net in ~7L for length of stay
   # Question of Osteomyelitis: Unlikely given downtrending WBC.  Continue
   to monitor wounds.  Will check to see if probes to bone.
   # RUE Edema: Pt anasarcic, but RUE more edematous. No DVT.
   - monitor
   # Constipation:
   - Cont home regimen: senna, colace, bisacodyl, sorbitol
   - Consider enema if not stooling
   # Leaking from G tube: No contrast seen in repeat XRay.  Not leaking
   internally.  Nolonger leaking through dressing changes.
   # Elevated INR: DIC labs normal, except D-dimer elevated. Platelets
   stable.
   - Monitor INR and platelets
   # Nephrolithiasis s/p perc neph tubes:  ALso neurogenic bladder with
   foley.  Foley has been changed.
   - f/u urology recs.
   # NSTEMI:  Demand, with down trending trop and no ischemic ECG changes.
   No wall motion abnormalities on echo.
   - Cont statin
   - start aspirin after acute illness
   # MS.  Painful UEs and now bedbound
   - Cont home dilaudid and anxiety regimen
   # Sacral decubs.
   - Cont wound care
   # Depression
   - Cont home antidepressant and anxiety regimen
 URINARY TRACT INFECTION (UTI)
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 NEPHROLITHIASIS (KIDNEY STONES)
 MYOCARDIAL INFARCTION, ACUTE (AMI, STEMI, NSTEMI)
 IMPAIRED SKIN INTEGRITY
 ANXIETY
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
 CHRONIC PAIN
 SEPSIS WITHOUT ORGAN DYSFUNCTION
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2127-1-18**] 12:35 AM 68.[**Telephone/Fax (5) 11088**] mL/hour
   Nutrition recs:
          Multivitamin / Mineral supplement: discontinue outside
   Multivitamin order ( provided in tube feed)
          Start vitamin c 500mg daily, zinc sulfate 220 mg daily and
   Vitamin A 20,000 international unit daily for total of 10days to help
   with wound healing
          Tube feeding recommendations: continue tube feed as ordered,
   monitor tolerance
          Po as tolerate
          Check chemistry 10 panel, replete as you are doing
          Start regular insulin sliding scale if serum glucose greater
   than 150 mg/dL
   Glycemic Control:
   Lines:
   Multi Lumen - [**2127-1-14**] 05:30 PM
   Arterial Line - [**2127-1-14**] 10:28 PM
   Prophylaxis:
   DVT: HSC
   Stress ulcer: ppi
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU for now